US07141569B2
To a solution of 4-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (100 mg, 0.24 mmol) in cyclopentylamine (50 mL) was added successively racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (71 mg, 0.11 mmol), cesium carbonate (155 mg, 0.48 mmol) and palladium (II) acetate (16 mg, 0.07 mmol). The resultant mixture was heated to 95° C. for 2 days at which time the reaction was judged complete by thin layer chromatography. The solution was cooled to room temperature and ethyl acetate was added. The organic layer was washed with water and brine. The aqueous layer was extracted with ethyl acetate and the combined organics dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (3:2 hexanes:ethyl acetate) provided 3-[2-(cyclopentylamino)-4-pyrimidinyl]N-isopropyl-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-5-amine (62 mg, 58%) as a yellow solid. 1H NMR (CDCl3) δ 8.13 (d, 1H), 7.91 (d, 1H), 7.50 (d, 2H), 7.44 (d, 1H), 6.93 (d, 2H), 6.25 (d, 1H), 6.19 (dd, 1H), 5.25 (d, 1H), 4.41 (m, 1H), 4.05 (d, 1H), 3.83 (s, 3H), 3.69 (m, 1H), 2.08–2.02 (m, 2H), 1.71–1.48 (m, 6H), 1.23 (d, 6H); MS m/z 443 (M+1).

reactant | 4-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.24 mmol, 100 mg | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C23H22ClN5O
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.11 mmol, 71 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.48 mmol, 155 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopentylamine | 50 mL | C1(CCCC1)N | C5H11N
catalyst | palladium (II) acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-(cyclopentylamino)-4-pyrimidinyl]N-isopropyl-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-5-amine | 62 mg, 58% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2)NC(C)C)C2=CC=C(C=C2)OC | C26H30N6O
